US04212865
Using the method of Example 32, Step E, 7-amino-2-nitro-3-phenylbenzofuran is reacted with trifluoromethanesulfonic anhydride to provide 2-nitro-3-phenyl-7-trifluoromethanesulfonamidobenzofuran. This product is purified by chromatography on silica gel eluting with chloroform. The first fraction provides the desired product which is further purified by recrystallization from benzene to provide yellow-orange crystals, m.p. 168°-170.5° C.

reactant | 7-amino-2-nitro-3-phenylbenzofuran | NC1=CC=CC=2C(=C(OC21)[N+](=O)[O-])C2=CC=CC=C2 | C14H10N2O3
reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | 2-nitro-3-phenyl-7-trifluoromethanesulfonamidobenzofuran | [N+](=O)([O-])C=1OC2=C(C1C1=CC=CC=C1)C=CC=C2NS(=O)(=O)C(F)(F)F | C15H9F3N2O5S
